US05750213
First, 13.8 g of 2,2-bis(6-benzyloxyhexyl)ethanol, 10.2 g of triphenylphosphine, and 50 ml of methylene chloride were placed in a 200 ml flask. Then, 50 ml of a methylene chloride solution containing 16.1 g of carbon tetrabromide was added dropwise to the reaction mixture at room temperature, and the reaction mixture was stirred for 1 hour. The reaction mixture was washed with an aqueous solution of sodium bicarbonate and water in this order. The resultant reaction mixture was dried over anhydrous sodium sulfate. Thereafter, the solvent was distilled away. The residue was purified by silica gel column chromatography (eluent: toluene) to obtain 11 g of 2,2-bis(6-benzyloxyhexyl)ethyl bromide (Y: 69%). The compound thus obtained had a purity of 97.5% by GC.

reactant | 2,2-bis(6-benzyloxyhexyl)ethanol | 13.8 g | C(C1=CC=CC=C1)OCCCCCCC(CO)CCCCCCOCC1=CC=CC=C1 | C28H42O3
reactant | triphenylphosphine | 10.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 16.1 g | C(Br)(Br)(Br)Br | CBr4
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2,2-bis(6-benzyloxyhexyl)ethyl bromide | 11 g, 69% | C(C1=CC=CC=C1)OCCCCCCC(CBr)CCCCCCOCC1=CC=CC=C1 | C28H41BrO2
